US05095014
3-(2-Chloro-6-methylphenoxy)-1-azetidinecarboxamide
A stirred solution of 3.9 g (0.015 mole) of 3-(2-chloro-6-methylphenoxy)-1-azetidinecarbonyl chloride in 20 mL of tetrahydrofuran was treated all at once with 2.8 mL (0.045 mole) of 57% ammonium hydroxide. After stirring for 72 h the reaction mixture was diluted with 200 mL of water and the precipitated product collected by filtration (3.6 g of pale yellow product). Recrystallization from benzene yielded 2.8 g (69.2%) of fine white crystals, mp 256°-157° C.

reactant | 3-(2-chloro-6-methylphenoxy)-1-azetidinecarbonyl chloride | 0.015 mole, 3.9 g | ClC1=C(OC2CN(C2)C(=O)Cl)C(=CC=C1)C | C11H11Cl2NO2
reactant | ammonium hydroxide | 0.045 mole, 2.8 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 3-(2-Chloro-6-methylphenoxy)-1-azetidinecarboxamide | 2.8 g, 69.2% | ClC1=C(OC2CN(C2)C(=O)N)C(=CC=C1)C | C11H13ClN2O2
